US07741327B2
A mixture of 2-[4-(2-chloro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-5,5,5-trifluoro-4-trifluoromethyl-pentanoic acid methyl ester (48 mg, 0.11 mmol) in a 1:1 solution of tetrahydrofuran:water (2 mL) was treated with lithium hydroxide monohydrate (11 mg, 0.22 mmol) and stirred for 2 h at 25° C. After such time, the mixture was concentrated in vacuo to remove the tetrahydrofuran and then diluted with water and the pH adjusted to pH=6 with 1N aqueous hydrochloric acid and extracted with ethyl acetate. The organic layers were dried over sodium sulfate and concentrated in vacuo to afford 2-[4-(2-chloro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-5,5,5-trifluoro-4-trifluoromethyl-pentanoic acid (35 mg, 75%) as an off-white solid: HR-ES-MS m/z calculated for C16H12NO4ClF6 [M+H]+ 432.0432, observed 432.0433.

reactant | 2-[4-(2-chloro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-5,5,5-trifluoro-4-trifluoromethyl-pentanoic acid methyl ester | 0.11 mmol, 48 mg | COC(C(CC(C(F)(F)F)C(F)(F)F)N1C(C=C(C1)OC1=C(C=CC=C1)Cl)=O)=O | C17H14ClF6NO4
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | lithium hydroxide monohydrate | 0.22 mmol, 11 mg | O.[OH-].[Li+]
solvent | water | 2 mL | O | H2O
product | 2-[4-(2-chloro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-5,5,5-trifluoro-4-trifluoromethyl-pentanoic acid | 35 mg, 75% | ClC1=C(OC2=CC(N(C2)C(C(=O)O)CC(C(F)(F)F)C(F)(F)F)=O)C=CC=C1 | C16H12ClF6NO4
